US08791147B2
To a solution of methyl coumalate (1 g, 6.49 mmol, 1 eq) in ethanol (30 mL) was added p-anisidine (0.79 g, 6.49 mmol, 1 eq). The reaction mixture was heated to reflux for 16 h. After this time, the solvent was removed under reduced pressure, and the residue was purified by column chromatography eluting with 3:2 ethyl acetate/hexane to afford 1-(4-methoxy-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester. Mass Spec m/z=260 [M+H+]. To a solution of 1-(4-methoxy-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester (400 mg, 1.54 mmol, 1 eq) in 3:1 tetrahydrofuran/methanol (20 mL) was added lithium hydroxide (148 mg, 6.17 mmol, 4 eq). The mixture was stirred at rt for 48 h then heated to 50° C. for 16 h. After this time, the mixture was concentrated under reduced pressure and partitioned between water and ethyl acetate. The aqueous layer was acidified with a 2N aqueous solution of hydrochloric acid then extracted with ethyl acetate. The organic layers were combined and washed with water, dried (MgSO4), filtered and concentrated under reduced pressure to afford 1-(4-methoxy-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid, which is used without further purification.

reactant | 1-(4-methoxy-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester | 1.54 mmol, 400 mg, 1 eq | COC(=O)C1=CN(C(C=C1)=O)CC1=CC=C(C=C1)OC | C15H15NO4
reactant | lithium hydroxide | 6.17 mmol, 148 mg, 4 eq | [OH-].[Li+]
solvent | tetrahydrofuran methanol | 20 mL | O1CCCC1.CO
product | 1-(4-methoxy-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | COC1=CC=C(CN2C=C(C=CC2=O)C(=O)O)C=C1 | C14H13NO4
